US06384080B1
To a solution of N-(4-chloro-3-methoxybenzyl)phthalimide (3.00 g) in ethanol (60 mL) was added hydrazine hydrate (2.62 mL), and the mixture was heated for an hour under reflux. The resulting precipitates were faltered off and the filtrate was evaporated in vacuo. The residue was partitioned between chloroform and an aqueous saturated sodium bicarbonate solution. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo to give 4-chloro-3-methoxybenzylamine as a yellow oil (1.64 g).

reactant | N-(4-chloro-3-methoxybenzyl)phthalimide | 3.00 g | ClC1=C(C=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1)OC | C16H12ClNO3
reactant | hydrazine hydrate | 2.62 mL | O.NN
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 4-chloro-3-methoxybenzylamine | 1.64 g | ClC1=C(C=C(CN)C=C1)OC | C8H10ClNO
